US05624917
A mixture of N-[4-(N-acetyl-N-phenylamino)butyl]phthalimide (9.2 g), hydrazine monohydrate (10 ml) and ethanol (200 ml) was heated under reflux for 1 hour. The deposited crystals were separated by filtration, and the filtrate was concentrated under reduced pressure to obtain 4-(N-acetyl-N-phenylamino)butylamine (4.55 g, 80.7%) as an oil.

reactant | N-[4-(N-acetyl-N-phenylamino)butyl]phthalimide | 9.2 g | C(C)(=O)N(C1=CC=CC=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O3
reactant | hydrazine monohydrate | 10 ml | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(N-acetyl-N-phenylamino)butylamine | 4.55 g, 80.7% | C(C)(=O)N(C1=CC=CC=C1)CCCCN | C12H18N2O
